US05670527
a) N-(4-Pyridinylmethyl)-N'-methylformamide
To a stirring, argon-purged solution of 4-picolyl chloride-HCl (15 g, 91.4 mmol) and N-methylformamide (53.4 ml, 914 mmol) in 300 ml of THF at room temperature was added portionwise over a 20 minute period a suspension of 80% NaH (5.48 g, 183 mmol). The reaction was quenched 18 h later by the addition of ice, partitioned between methylene chloride and water, washed with water and brine, dried over MgSO4, and evaporated to dryness to afford a dark oil. Flash chromatography on silica gel provided 10.5 g (76%) of the rifled compounds a pale yellow oil. TLC; silica gel (9:1 CHCl/MeOH) Rf=0.54.

reactant | 4-picolyl chloride-HCl | 91.4 mmol, 15 g | Cl.N1=CC=C(C=C1)CCl
reactant | N-methylformamide | 914 mmol, 53.4 ml | CNC=O | C2H5NO
reactant | NaH | 183 mmol, 5.48 g | [H-].[Na+]
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | N-(4-Pyridinylmethyl)-N'-methylformamide | 10.5 g, 76% | CN(CC1=CC=NC=C1)C=O | C8H10N2O
